US08557813B2
7.3 A solution, kept under nitrogen, of 324 mg (0.70 mmol) of (3-{5-[1-(2-morpholin-4-ylethyl)-1H-pyrazol-4-yl]pyrimidin-2-yl}phenyl)methanol, 131 mg (0.91 mmol) of 6-isopropyl-2H-pyridazin-3-one and 278 mg (1.05 mmol) of triphenylphosphine in 1.4 ml of THF is cooled in an ice bath, and 217 μl (1.056 mmol) of diisopropyl azodicarboxylate are added dropwise. After the reaction mixture has been stirred at room temperature for 2 hours, it is evaporated. The residue is chromatographed on a silica-gel column with dichloromethane/methanol as eluent, giving 6-isopropyl-2-(3-{5-[1-(2-morpholin-4-ylethyl)-1H-pyrazol-4-yl]pyrimidin-2-yl}benzyl)-2H-pyridazin-3-one (“A13”) as yellowish crystals; ESI 486;

reactant | (3-{5-[1-(2-morpholin-4-ylethyl)-1H-pyrazol-4-yl]pyrimidin-2-yl}phenyl)methanol | 0.70 mmol, 324 mg | N1(CCOCC1)CCN1N=CC(=C1)C=1C=NC(=NC1)C=1C=C(C=CC1)CO | C20H23N5O2
reactant | 6-isopropyl-2H-pyridazin-3-one | 0.91 mmol, 131 mg | C(C)(C)C=1C=CC(NN1)=O | C7H10N2O
reactant | triphenylphosphine | 1.05 mmol, 278 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.056 mmol, 217 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.4 ml | C1CCOC1 | C4H8O
product | 6-isopropyl-2-(3-{5-[1-(2-morpholin-4-ylethyl)-1H-pyrazol-4-yl]pyrimidin-2-yl}benzyl)-2H-pyridazin-3-one | C(C)(C)C=1C=CC(N(N1)CC1=CC(=CC=C1)C1=NC=C(C=N1)C=1C=NN(C1)CCN1CCOCC1)=O | C27H31N7O2
